US05552558
A. Ethyl 2-Isopropylthiazole-5-carboxylate.
Using the procedure of Example 1J but replacing thioformamide with 2-methylpropane-thioamide provided, after silica gel chromatography using 9:1 ethyl acetate:hexane, the desired compound, Rf 0.8, (5% methanol in chloroform) in 83% yield.

reactant | 2-methylpropane-thioamide | CC(C(N)=S)C | C4H9NS
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hexane | CCCCCC | C6H14
reactant | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 2-Isopropylthiazole-5-carboxylate | 83% yield | C(C)(C)C=1SC(=CN1)C(=O)OCC | C9H13NO2S
